US09278950B2
Step 2. 3-(3-Nitropyridin-4-yl)cyclohex-2-en-1-one
To a solution of 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)cyclohex-2-en-1-one (6.0 g, 27 mmol) and 4-chloro-3-nitropyridine (2.4 g, 15 mmol) in 1,4-dioxane (60 mL), 2.0 N aq. Na2CO3 (12 mL, 24 mmol) and tetrakis(triphenylphosphine)palladium(0) (1.8 g, 1.5 mmol) were added. The reaction mixture was heated at 120° C. for 1 h. The reaction mixture was filtered through diatomaceous earth, which was washed with EtOAc. The filtrate was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (eluting with 10-100% EtOAc in hexanes) to give the sub-title compound as a brown solid (1.97 g, 87%). LCMS calc. for C11H11N2O3 (M+H)+: m/z=219.1. Found: 219.0.

reactant | 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)cyclohex-2-en-1-one | 27 mmol, 6.0 g | CC1(OB(OC1(C)C)C1=CC(CCC1)=O)C | C12H19BO3
reactant | 4-chloro-3-nitropyridine | 15 mmol, 2.4 g | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | Na2CO3 | 24 mmol, 2.0 N, 12 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 60 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.5 mmol, 1.8 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(3-Nitropyridin-4-yl)cyclohex-2-en-1-one | 1.97 g, 87% | [N+](=O)([O-])C=1C=NC=CC1C1=CC(CCC1)=O | C11H10N2O3
